US07378525B2
(±)-3-Methyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester
1-Benzyl-3-methyl-piperidin-4-one (6.5 g, 32.0 mmol) was dissolved in methanol (30 mL). Di-tert-butyl dicarbonate (10.46 g, 48.0 mmol) was added followed by palladium hydroxide (20%, 100 mg) and the reaction shaken overnight at 55 psi under a hydrogen atmosphere. The reaction was filtered and concentrated in vacuo to give a clear oil. Flash column chromatography (75:25 hexanes/ethyl acetate) afforded the title compound as a white solid. Wt.: 5.5 g (81%). 1H NMR (300 MHz, CDCl3) δ 4.18 (m, 2H), 3.25 (m, 1H), 2.84 (m, 1H), 2.53 (m, 1H), 2.43 (m, 2H), 1.50 (s, 9H), 1.05 (d, 3H).

reactant | 1-Benzyl-3-methyl-piperidin-4-one | 32.0 mmol, 6.5 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | Di-tert-butyl dicarbonate | 48.0 mmol, 10.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium hydroxide | 100 mg | [OH-].[Pd+2].[OH-]
product | (±)-3-Methyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C | C11H19NO3
